US08426602B2
2-([2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-6-[(2R)-2,3-dihydroxypropyl]amino-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile
100 mg (0.206 mmol) of 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile, together with 38 mg (0.411 mmol) of (2R)-3-aminopropane-1,2-diol, were dissolved in 1.5 ml of THF. The mixture was stirred at room temperature for two hours, and the product was then purified by preparative HPLC (acetonitrile/water: 10:90→95:5, 0.1% TFA added). This gave 64 mg (58%/0 of theory) of the target compound.

reactant | 2-chloro-6-({[2-(4-chlorophenyl)-1,3-thiazol-4-yl]methyl}sulfanyl)-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | 0.206 mmol, 100 mg | ClC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)SCC=1N=C(SC1)C1=CC=C(C=C1)Cl | C20H9Cl2N5S3
reactant | (2R)-3-aminopropane-1,2-diol | 0.411 mmol, 38 mg | NC[C@H](CO)O | C3H9NO2
solvent | THF | 1.5 ml | C1CCOC1 | C4H8O
product | 2-([2-(4-Chlorophenyl)-1,3-thiazol-4-yl]methylsulfanyl)-6-[(2R)-2,3-dihydroxypropyl]amino-4-(1,3-thiazol-5-yl)pyridine-3,5-dicarbonitrile | ClC1=CC=C(C=C1)C=1SC=C(N1)CSC1=NC(=C(C(=C1C#N)C1=CN=CS1)C#N)NC[C@H](CO)O | C23H17ClN6O2S3
